US07109209B2
N,N-Dimethylformamide (100 mL) was cooled to 0° C. and treated with phosphorous oxychloride (5.7 mL, 60.8 mmol). After the addition was complete, the mixture was warmed to room temperature and stirred for 1 hour. To this was added 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine (10.0 g, 40.5 mmol) and the resultant solution was stirred overnight Water was added, followed by dichloromethane. The aqueous layer was extracted with dichloromethane. The combined organics were washed with brine, dried over magnesium sulfate, filtered and concentrated. The residue was recrystallized from diethyl ether and hexanes to give 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine-3-carbaldehyde (10.6 g, 95%) as a fluffy white solid. 1H NMR (CDCl3): δ 10.07 (s, 1H), 8.37 (d, 1H), 7.78 (m, 2H), 7.48 (t, 1H), 7.20 (m, 3H); 19F NMR (CDCl3) δ−111.25; MS m/z 275 (M+1); Anal. Calcd for C14H8ClFN2O: C, 61.22; H, 2.94; N. 10.20. Found: C, 61.34; H. 2.90; N. 10.15; mp 212–213° C. (decomp.).

reactant | N,N-Dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | phosphorous oxychloride | 60.8 mmol, 5.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine | 40.5 mmol, 10.0 g | ClC1=CC=CC=2N1N=C(C2)C2=CC=C(C=C2)F | C13H8ClFN2
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridine-3-carbaldehyde | 10.6 g, 95% | ClC1=CC=CC=2N1N=C(C2C=O)C2=CC=C(C=C2)F | C14H8ClFN2O
